US04675186
2-[1-(Ethoxy)ethoxy]-3 -(2-thienyl)propenal
Except to use a reaction time of 36 hours at ambient temperature, and to use toluene as eluant on chromatography, thiophene-2-carbaldehyde (3.1 ml., 3.74 g., 0.083 mol) and 2-[1-(ethoxy)ethoxy)acetaldehyde (4.0 g., 0.030 mol) were converted to instant title product as a yellow solid 1.39 g., crystallized from hexane, 109 mg.; 1H-nmr: 1.14 (t, 3H), 1.52 (d, 3H), 3.75 (m, 2H), 6.01 (q, 1H), 6.99 (s, 1H), 7.15 (m, 1H), 7.53 (m, 2H), 9.40 (s, 1H).

reactant | thiophene-2-carbaldehyde | 0.083 mol, 3.1 ml, 3.74 g | S1C(=CC=C1)C=O | C5H4OS
reactant | 2-[1-(ethoxy)ethoxy)acetaldehyde | 0.030 mol, 4.0 g | C(C)OC(C)OCC=O | C6H12O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-[1-(Ethoxy)ethoxy]-3 -(2-thienyl)propenal | 1.39 g | C(C)OC(C)OC(C=O)=CC=1SC=CC1 | C11H14O3S
